2173-03-15 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2173-3-14**] 10:59 PM
   Sent from PERC DRAIN
 BLOOD CULTURED - At [**2173-3-15**] 12:30 AM
   BC x 2
 URINE CULTURE - At [**2173-3-15**] 05:49 AM
   Foley Catheter
 FEVER - 102.8
F - [**2173-3-15**] 12:00 AM
   - Overnight with fever spike to 102, cultured, and decreasing fever
   curve
   - BP slowly normalized with 3 doses of 10mg IV labetalol
   - Weaned down to 2L NC
   - Rectal exam with soft stool in vault
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2173-3-14**] 10:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-3-14**] 10:30 PM
   Labetalol - [**2173-3-15**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-15**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.3
C (100.9
   HR: 78 (78 - 92) bpm
   BP: 127/50(70) {127/43(63) - 197/79(107)} mmHg
   RR: 27 (21 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,065 mL
                                                                     71 mL
   PO:
             TF:
   IVF:
                                                                     65 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                     15 mL
   Urine:
                                                                     25 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    640 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   12.8 g/dL
   126 mg/dL
   6.6 mg/dL
   28 mEq/L
   4.8 mEq/L
   36 mg/dL
   97 mEq/L
   135 mEq/L
   41.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2173-3-14**]  09:30 PM
                             [**2173-3-15**]  05:44 AM
   WBC
   8.7
   8.6
   Hct
   44.4
   41.0
   Plt
   149
   160
   Cr
   5.9
   6.6
   Glucose
   160
   126
   Other labs: PT / PTT / INR:13.4/24.7/1.1, CK / CKMB / Troponin-T:93//,
   ALT / AST:[**8-13**], Alk Phos / T Bili:78/0.5, Lactic Acid:1.6 mmol/L,
   Albumin:3.2 g/dL, LDH:207 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   71F with HTN, DM II, h/o resistant UTIs in past, ESRD on HD via RUE
   AVF, diastolic CHF, CAD, presented to the [**Hospital1 54**] ED with reported fever
   to 104F and altered mental status found to have UTI with upper tract
   obstruction and hydronephrosis s/p percutaneous nephostomy tube
   drainage by IR and sent to MICU for hypoxia.
   .
   # UTI with pyelonephrosis with hydronephrosis: s/p percutaneous
   nephostomy drainage and tube in IR prior to MICU admission
   history of ESBL/Klebsiella UTI, and MRSA line infection. Has had no
   indications for septic physiology so far (no leukocytosis, tachycardia,
   documented fever, hypotension, etc). Lactate normal.  But monitor BP,
   UOP (however, patient makes scant urine at baseline), vitals closely
   overnight
   - cover with vancomycin and cefepime overnight. If any fever spike,
   evidence of decompensation, can add on daptomycin to cover for VRE that
   patient had in the past and gentamycin for klebsiella
   - urology following, appreciate recs
   - send repeat UCx from foley and percutaneous nephostomy drain
   - f/u UCx and BCx from ED and tailor accordingly
   - f/u final read CT abd/pelvis
   - follow nephrostomy tube drainage and tube care recs per IR
   - monitor BP (has been hypertensive) and make sure MAP>65 and bolus prn
   .
   # Hypoxia: Patient with reported hypoxia during IR procedure while in
   prone position, likely hypoxia in setting of fluid bolus, positioning,
   and prior to HD due the next day. CXR with evidence of mild fluid
   overload. No evidence of PNA on CXR in ED. PE also on differential,
   however, no tachycardia or evidence of right heart strain on EKG
   - wean down O2 requirement as tolerated
   - renal HD involved, may need volume removal at HD
   - Repeat CXR in AM
   - if patient's mental status not improved in AM, get ABG to assess pCO2
   level
   - monitor closely for other evidence of infection
   .
   # Altered mental status: Most likely in setting of infection. CT head
   without any intracranial abnormality. Also on differential is seizure
   (patient with some tremors in right hand) with episode of incontinence.
   Will also check electrolytes, check reversible causes of dementia.
   Difficult to assess mental status as patient still waking up from
   sedating medications from procedure.
   - treat infection with antibiotics as above
   - add on serum and urine tox
   - check TSH, B12, RPR
   - avoid sedating medications
   - hold home gabapentin for now
   - NPO overnight while mental status clears
   - if mental status doesn't clear overnight or patient with continued
   tremor, shaking, can consider EEG for eval of seizure
   .
   # ESRD on HD
   - Renal HD following. Patient normally MWF schedule - seems volume
   overloaded on exam, will need HD tomorrow (Monday)
   - continue nephrocaps and sevelamer when taking POs
   .
   # HTN: Patient with elevated BP upon admission. Likely in setting of
   IVF in ED and not taking home oral hypertensives but trending upwards
   to SBP 190s with some agitation. Review of outpatient records showed
   that patient can be 180s SBP prior to HD
   - IV labetalol Q6hr with goal SBP 160s overnight, can also try hydral
   prn
   - add back PO meds when taking POs
   - will have fluid removal at HD
   .
   # DM: On NPH at home, but currently NPO
   - cover with HISS
   .
   # CAD: No evidence of chest pain, EKG changes.
   - while patient unable to take pills overnight, cover with IV
   metoprolol
   - continue home ASA, carvedilol, lisinopril, and statin when taking POs
   - AM ECG
   .
   # diastolic CHF: last TTE showing no clot and normal EF. Patient
   slightly hypervolemic on exam
   - volume removal at HD tomorrow
   - repeat CXR in AM
   .
   # Constipation: Patient with fecal impaction seen in CT. Also will f/u
   on possible anal abcess
   - f/u final read CT abd/pelvis
   - aggressive bowel regimen with colace, senna, dulcolax for now. Can
   add lactulose prn
   - rectal exam
   .
   # FEN: NPO overnight until mental status improves
   # Prophylaxis: Subcutaneous heparin
   # Access: Has 2 18g PIVs.
   # Communication: HCP: [**Name (NI) **] [**Name (NI) 90**] - Sister: [**Telephone/Fax (1) 12185**] OR
   [**Telephone/Fax (1) 4163**]
   # Code:  Full (discussed with HCP), ICU consent in chart
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: NPO overnight
   Glycemic Control:  HISS
   Lines:
   18 Gauge - [**2173-3-14**] 09:09 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: HCP: [**Name (NI) **] [**Name (NI) 90**] - Sister: [**Telephone/Fax (1) 12185**] OR
   [**Telephone/Fax (1) 4163**]
   Code status: Full code
   Disposition: Stable for callout to floor after HD

2173-03-15 09:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yo F HTN, DM, ESRD on HD, history of recurrent UTIs who was
   transferred to IDMC after found with acute on chronic mental status
   changes associated iwth fevers.  In the emergency department a CT of
   her abdomen revealed hydronephrosis.  SHe was given 1L IVF, vanc,
   ceftriaxone.  [**Last Name (un) 12192**] was taken to IR for R nephrostomy tube placement but
   after procedure she became hypoxemic.
   24 Hour Events:
    - O2 support weaned to nasal cannula
    - Abx maintained at vanc/cefepime
    - Became hypertensive in setting of missing all PO antihypertensives,
   improved with iv labetolol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2173-3-14**] 10:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-3-14**] 10:30 PM
   Labetalol - [**2173-3-15**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-15**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.8
C (100
   HR: 87 (78 - 92) bpm
   BP: 144/48(71) {127/43(60) - 197/79(107)} mmHg
   RR: 26 (21 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,065 mL
                                                                    208 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                     65 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                     65 mL
   Urine:
                                                                     25 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    640 mL
                                                                    143 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: ), poor patient
   cooperation
   Abdominal: Soft, Tender: nonspecific but increased at RLQ
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   12.8 g/dL
   160 K/uL
   126 mg/dL
   6.6 mg/dL
   28 mEq/L
   4.8 mEq/L
   36 mg/dL
   97 mEq/L
   135 mEq/L
   41.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2173-3-14**]  09:30 PM
                             [**2173-3-15**]  05:44 AM
   WBC
   8.7
   8.6
   Hct
   44.4
   41.0
   Plt
   149
   160
   Cr
   5.9
   6.6
   Glucose
   160
   126
   Other labs: PT / PTT / INR:13.4/24.7/1.1, CK / CKMB / Troponin-T:93//,
   ALT / AST:[**8-13**], Alk Phos / T Bili:78/0.5, Lactic Acid:1.6 mmol/L,
   Albumin:3.2 g/dL, LDH:207 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Imaging: CXR: bilateral pleural effusions
   Assessment and Plan
   71 yo F with ESRD on HD, recurrent UTIs, presents with altered mental
   status and is found to have hydroureter, now s/p perc nephrostomy tube
   1. Pyelonephritis: with obstructed ureter of unclear etiology
    - patient with nonseptic physiology, hypertensive, improving mental
   status s/p drainage placement
    - will continue vanc/cefepime for now, await final culture data, if
   she  worsens would start gent
   2. Hypoxemia: CXR with volume overload in setting of missing HD,
   therefore likely [**12-29**] volume overload
    - HD this am and will f/u post HD
    - does not appear hypercarbic given improvement, would check ABG if
   somnolent
   3. Altered mental status: likely [**12-29**] ongoing infection, with normal
   head CT, no szr like activity
    - holding sedating medications including neurontin
    - advancing diet to allow all essential medications PO
   4. Abdominal Pain: on exam this morning exhibits increased RLQ pain,
   which may be related to stool imaction, no evidence SBO on abd CT
    - advancing bowel regimen
    - disempaction attempted but no obvious stool in vault
   5. HTN: will restart her home medications this morning including coreg
   and lisinopril
   6/ FEN: will advance diet with improving mental status
   ICU Care
   Nutrition: advance diet as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2173-3-14**] 09:09 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2173-03-16 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - unable to take fluid off during HD yesterday
   - kept in unit as BPs running lower yesterday, improved this AM SBP
   140s
   - nephrostomy tube flushed
   - abx broadened to vanc/meropenem
   - urine growing back E. coli, sensitivies pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2173-3-15**] 02:00 PM
   Meropenem - [**2173-3-15**] 04:05 PM
   Vancomycin - [**2173-3-15**] 06:31 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-3-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-16**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37.8
C (100
   Tcurrent: 35.9
C (96.6
   HR: 70 (62 - 87) bpm
   BP: 146/40(47) {81/35(47) - 157/60(81)} mmHg
   RR: 27 (15 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,210 mL
                                                                     76 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,090 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    123 mL
                                                                     60 mL
   Urine:
                                                                    123 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,087 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General: NAD, not very verbal, seems mildly confused, AOx ******
   HEENT: PERRL, anicteric sclerae and conjunctivae pink
   Neck: supple, no JVD
   CVS: S1/S2 reg, RRR, no rubs but 2/6 systolic murmur /sternal border at
   right
   LUNGS:  ************
   ABD: diffuse tenderness over lower quadrants, no rebound, soft, NABs ,
   R nephrostomy tube in place /bloody drainage
   EXT:  no edema , 2+pulses
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   12.4 g/dL
   145 mg/dL
   4.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   25 mg/dL
   100 mEq/L
   138 mEq/L
   37.8 %
   17.4 K/uL
        [image002.jpg]
                             [**2173-3-14**]  09:30 PM
                             [**2173-3-15**]  05:44 AM
                             [**2173-3-16**]  05:25 AM
   WBC
   8.7
   8.6
   17.4
   Hct
   44.4
   41.0
   37.8
   Plt
   149
   160
   133
   Cr
   5.9
   6.6
   4.3
   Glucose
   160
   126
   145
   Other labs: PT / PTT / INR:13.4/24.7/1.1, CK / CKMB / Troponin-T:93//,
   ALT / AST:[**8-13**], Alk Phos / T Bili:78/0.5, Lactic Acid:1.6 mmol/L,
   Albumin:3.2 g/dL, LDH:207 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   UCx [**3-14**]
 E. coli
   UCx (tube drainage) [**3-15**] and foley [**3-15**] PND
   BCx [**3-14**] and [**3-15**]: NGTD
   Final CT abd/pelvis:
   1. Right moderate hydronephrosis and hydroureter with enhancement of
   the wall
   of the right ureter and an apparent distal ureteral mass or stone as
   well as
   urinary bladder wall thickening. Differential considerations are distal
   right
   ureteral neoplasm or, less likely, infection-obstructive calculus.
   Clinical
   correlation and urologic consultation advised. MR urogram may provide
   for
   further imaging assessment, if clinically indicated.
   2. 4.3-cm right lower quadrant cystic structure inseparable from the
   appendix
   and the cecum and adjacent loops of bowel, may represent a GI
   duplication cyst
   or adnexal cyst. Notably the uterus appears surgically absent. Pelvic
   ultrasound suggested on a nonemergent basis if this cystic structure
   has not
   been previously characterized and the right ovary has not been
   previously
   resected.
   3. Large amount of stool in the rectum compatible with fecal impaction.
   4. Cholelithiasis and dilatation of the common bile duct up to 9 mm is
   slightly above upper limit of normal for patient's stated age.
   5. Severe atherosclerotic disease, right renal stent, and possible 3.0
   x 1.4
   cm aneurysm of the right common femoral artery.
   6. Sclerotic appearance with trabecular thickening of the left iliac
   bone,
   most compatible with Paget's disease.
   Assessment and Plan
   71F with HTN, DM II, h/o resistant UTIs in past, ESRD on HD via RUE
   AVF, diastolic CHF, CAD, with fever and altered mental status found to
   have pyelonephrosis and hydronephrosis s/p percutaneous nephostomy tube
   drainage by IR observed for hypoxia relative hypotension which are both
   improved overnight.
   .
   # Pyelonephrosis with hydronephrosis: s/p percutaneous nephostomy
   drainage and tube in IR prior to MICU admission
   history of VRE and ESBL/Klebsiella UTI. Abx broadened to
   vanc/meropenem, urine growing E. coli, sensitivies pending.
   - continue vancomycin (day #3) and meropenem (day #2), tailor to UCx
   sensitivies
   - f/u UCx results
   -f/up urology recs, IR recs today (flushing instructions)
   - f/u final read CT abd/pelvis
   .
   # Hypoxia:  Improving now  and weaned down to 2-4L NC overnight. Likely
   episode prior to admission was in setting of fluid overload and
   positioning as well . AMS is better today.
   - wean down O2 requirement as tolerated
   - renal HD aware
 plan for HD today
   - monitor closely for other evidence of infection
   .
   # Altered mental status: Most likely from new infection. CT head
   without any intracranial abnormality. Patient with continued R hand
   tremors but no evidence of seizures overnight. Older CVA and has some
   mental status baseline impatirments.. Serum and urine tox screen
   negative. TSH, B12 normal.
   - Should try to obtain better mental status baseline by family member
   - treat infection with antibiotics as above
   - avoid sedating medications
   - hold home gabapentin for now
   - patient tolerating sips/clears
   -.
   # ESRD on HD
   - Renal HD following. Patient normally MWF schedule
 unable to get
   much fluid off at HD yesterday
   - follow up renal recs for next HD date
   - continue nephrocaps and sevelamer once taking POs
   .
   # HTN: BP normalized over course of night with labetalol 10mg IV x 3.
   BP likely high in setting of not taking oral hypertensives and also
   being due for HD. Review of outpatient records showed that patient can
   be 180s SBP prior to HD
   - IV labetalol Q6hr with hold parameters
   - switch back PO meds today now that can take POs (carvedilol and
   lisinopril)
   - will have fluid removal at HD today which should help HTN
   .
   # DM: On NPH at home, but currently NPO, planning to advance to PO diet
   slowly
   - advance a slow renal/cardiac diet today
   - cover with HISS, adjust PRN
   .
   #Mild abdominal pain: no acute concerns on Abd portion CT done
   overnight. She does have e/o severe constipation so will monitor stools
   today
   - bowel regimen with senna, colace, bisacodyl
   -consider additional enemas PRN ( soap [**Last Name (un) 4963**]) if  no BM by late afternoon
   .
   # CAD: No evidence of chest pain, EKG changes.
   - while patient unable to take pills overnight, covered with IV
   metoprolol
   - continue home ASA, carvedilol, lisinopril, and statin when taking POs
   - AM ECG
   .
   # diastolic CHF: last TTE showing no clot and normal EF. Patient
   slightly hypervolemic on exam
   - volume removal at HD tomorrow
   .
   # Constipation: Patient with fecal impaction seen in CT. Also will f/u
   on possible anal abcess
   - f/u final read CT abd/pelvis
   - aggressive bowel regimen with colace, senna, dulcolax for now as
   above. Can add lactulose prn
   .
   # FEN: will plan to advance to sips/light PO for now as mental status
   improving  / HISS once eating more
   .
   ICU Care
   Nutrition: tolerating clears/sips
   Glycemic Control:  HISS
   Lines:
   18 Gauge - [**2173-3-14**] 09:09 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication:  Comments: HCP: [**Name (NI) **] [**Name (NI) 90**] - Sister: [**Telephone/Fax (1) 12185**] OR
   [**Telephone/Fax (1) 4163**]
   Code status: Full code
   Disposition: Stable to callout to floor

2173-03-16 11:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - HoTN prevented removal of fluid with HD
   - BP responsive to IVF
   - Broadened abx: Cefepime -> Meropenem
   - Weaned to room air
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2173-3-15**] 02:00 PM
   Meropenem - [**2173-3-15**] 04:05 PM
   Vancomycin - [**2173-3-15**] 06:31 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-3-16**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-16**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 71 (62 - 84) bpm
   BP: 105/52(59) {82/35(47) - 157/60(113)} mmHg
   RR: 12 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,210 mL
                                                                    220 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,090 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    123 mL
                                                                     80 mL
   Urine:
                                                                    123 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,087 mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   133 K/uL
   145 mg/dL
   4.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   25 mg/dL
   100 mEq/L
   138 mEq/L
   37.8 %
   17.4 K/uL
         [image002.jpg]
                             [**2173-3-14**]  09:30 PM
                             [**2173-3-15**]  05:44 AM
                             [**2173-3-16**]  05:25 AM
   WBC
   8.7
   8.6
   17.4
   Hct
   44.4
   41.0
   37.8
   Plt
   149
   160
   133
   Cr
   5.9
   6.6
   4.3
   Glucose
   160
   126
   145
   Other labs: PT / PTT / INR:13.4/24.7/1.1, CK / CKMB / Troponin-T:93//,
   ALT / AST:[**8-13**], Alk Phos / T Bili:78/0.5, Lactic Acid:1.6 mmol/L,
   Albumin:3.2 g/dL, LDH:207 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Imaging: CXR - Decreased pulmonary edema.
   Microbiology: [**3-14**] - Urine Cx + E. coli (S pending)
   Blood NGTD
   Assessment and Plan
   71 yo F with ESRD on HD, recurrent UTIs, presents with altered mental
   status and is found to have hydroureter, now s/p perc nephrostomy tube
   #. Pyelonephritis: with obstructed ureter of unclear etiology
    - patient with nonseptic physiology, hypertensive, improving mental
   status s/p drainage placement
    - will continue vanc/cefepime for now, await final culture data, if
   she  worsens would start gent
   #. Hypoxemia: CXR with volume overload in setting of missing HD,
   therefore likely [**12-29**] volume overload
    - HD this am and will f/u post HD
    - does not appear hypercarbic given improvement, would check ABG if
   somnolent
   #. Altered mental status: likely [**12-29**] ongoing infection, with normal
   head CT, no szr like activity
    - holding sedating medications including neurontin
    - advancing diet to allow all essential medications PO
   #. Abdominal Pain: on exam this morning exhibits increased RLQ pain,
   which may be related to stool imaction, no evidence SBO on abd CT
    - advancing bowel regimen
    - disempaction attempted but no obvious stool in vault
   #. HTN: will restart her home medications this morning including coreg
   and lisinopril
   #. FEN: will advance diet with improving mental status
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2173-3-14**] 09:09 PM
   PICC Line - [**2173-3-16**] 08:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 15 minutes

2173-03-17 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - needed to go to IR for PICC placement, bedside -> brachiocephalic
   - urine with E coli, now on TMPSMX
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2173-3-15**] 02:00 PM
   Meropenem - [**2173-3-15**] 04:05 PM
   Vancomycin - [**2173-3-15**] 06:31 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-3-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-17**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 84 (69 - 84) bpm
   BP: 143/54(74) {100/40(42) - 162/88(113)} mmHg
   RR: 11 (9 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    295 mL
                  PO:
                                                                    195 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    160 mL
   Urine:
                                                                    100 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    195 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General: NAD, not very verbal, seems mildly confused, AOx1 today
   HEENT: PERRL, anicteric sclerae and conjunctivae pink
   Neck: supple, no JVD
   CVS: S1/S2 reg, RRR, no rubs but 2/6 systolic murmur /sternal border at
   right
   LUNGS:  decreased sounds at bases laterally
   ABD: diffuse tenderness over lower quadrants, no rebound, soft, NABs ,
   R nephrostomy tube in place /bloody drainage
   EXT:  no edema , 2+pulses
   Labs / Radiology
   133 K/uL
   12.4 g/dL
   145 mg/dL
   4.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   25 mg/dL
   100 mEq/L
   138 mEq/L
   37.8 %
   17.4 K/uL
        [image002.jpg]
                             [**2173-3-14**]  09:30 PM
                             [**2173-3-15**]  05:44 AM
                             [**2173-3-16**]  05:25 AM
   WBC
   8.7
   8.6
   17.4
   Hct
   44.4
   41.0
   37.8
   Plt
   149
   160
   133
   Cr
   5.9
   6.6
   4.3
   Glucose
   160
   126
   145
   Other labs: PT / PTT / INR:13.4/24.7/1.1, CK / CKMB / Troponin-T:93//,
   ALT / AST:[**8-13**], Alk Phos / T Bili:78/0.5, Lactic Acid:1.6 mmol/L,
   Albumin:3.2 g/dL, LDH:207 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Micro
   [**3-15**] urine cx 10-100k E coli
   [**3-14**] urine cx 100k E coli (Amp and Cipro R, TMPSMX S)
   [**2082-3-13**] blood cx NGTD
   [**3-16**] stool  C diff negative
   Assessment and Plan
   71F with HTN, DM II, h/o resistant UTIs in past, ESRD on HD via RUE
   AVF, diastolic CHF, CAD, with fever and altered mental status found to
   have pyelonephrosis and hydronephrosis s/p percutaneous nephostomy tube
   drainage by IR observed for hypoxia relative hypotension which are both
   improved overnight.
   .
   # Pyelonephrosis with hydronephrosis: s/p percutaneous nephostomy
   drainage and tube in IR prior to MICU admission
   history of VRE and ESBL/Klebsiella UTI. Abx broadened to
   vanc/meropenem, urine growing E. coli, sensitivies pending.
   - follow-up urine culture sensitivity/resistance data
   - continue vancomycin (day #3) and meropenem (day #2), tailor to UCx
   sensitivies
   - f/u UCx results
   -f/up urology recs, IR recs today (flushing instructions / tube care )
   - f/u final read CT abd/pelvis
   .
   # Hypoxia:  Improving now  and weaned down to 2-4L NC overnight. Likely
   episode prior to admission was in setting of fluid overload and
   positioning as well. AMS is better today.
   - wean down O2 requirement as tolerated
   - renal HD aware
 plan for HD tomorrow (M. W. F)
   - monitor closely for other evidence of infection
   .
   # Altered mental status: Most likely from new infection. CT head
   without any intracranial abnormality. Patient with continued R hand
   tremors but no evidence of seizures overnight. Older CVA and has some
   mental status baseline impatirments.. Serum and urine tox screen
   negative. TSH, B12 normal.
   .
   - Should try to obtain better mental status baseline by family member
   - treat infection with antibiotics as above
   - avoid sedating medications
   - hold home gabapentin for now
   - patient tolerating sips/clears
   -.
   # ESRD on HD
   - Renal HD following. Patient normally MWF schedule
 unable to get
   much fluid off at HD yesterday
   - follow up renal recs for next HD date / likely Weds but recent low
   BPs
   - continue nephrocaps and sevelamer once taking POs
   .
   # HTN: BP normalized over course of night with labetalol 10mg IV x 3.
   BP likely high in setting of not taking oral hypertensives and also
   being due for HD. Review of outpatient records showed that patient can
   be 180s SBP prior to HD
   - switch back PO meds today now that can take POs (carvedilol and
   lisinopril)
   - tight hold parameters for recent low BPs
   .
   # DM: On NPH at home, but currently NPO, planning to advance to PO diet
   slowly
   - advance a slow renal/cardiac diet today
   - cover with HISS, adjust PRN as limited PO
   .
   #Mild abdominal pain: no acute concerns on Abd portion CT done
   overnight. She does have e/o severe constipation so will monitor stools
   today.
   - bowel regimen with senna, colace, bisacodyl
 will slow down given
   brisk response with diarrhea now the issue
   - no need for ememas now
   - now loose stools, will send off C.diff
   .
   # CAD: No evidence of chest pain, EKG changes.
   - while patient unable to take pills overnight, covered with IV BB (
   holding for low BPs)
   - continue home ASA, carvedilol, lisinopril, and statin when taking POs
   - AM ECG
   .
   # diastolic CHF: last TTE showing no clot and normal EF. Patient
   slightly hypervolemic on exam
   - volume removal at HD tomorrow / likely Weds
 will confirm with renal
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2173-03-17 09:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Urine cx + e. coli -> Bactrim given no IV access
   - Bedside PICC failed, No IV access
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2173-3-15**] 02:00 PM
   Meropenem - [**2173-3-15**] 04:05 PM
   Vancomycin - [**2173-3-15**] 06:31 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-3-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-17**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 85 (69 - 85) bpm
   BP: 178/58(85) {100/40(42) - 178/88(113)} mmHg
   RR: 25 (9 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    295 mL
                                                                     30 mL
   PO:
                                                                    195 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    160 mL
   Urine:
                                                                    100 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    195 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   133 K/uL
   145 mg/dL
   4.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   25 mg/dL
   100 mEq/L
   138 mEq/L
   37.8 %
   17.4 K/uL
        [image002.jpg]
                             [**2173-3-14**]  09:30 PM
                             [**2173-3-15**]  05:44 AM
                             [**2173-3-16**]  05:25 AM
   WBC
   8.7
   8.6
   17.4
   Hct
   44.4
   41.0
   37.8
   Plt
   149
   160
   133
   Cr
   5.9
   6.6
   4.3
   Glucose
   160
   126
   145
   Other labs: PT / PTT / INR:13.4/24.7/1.1, CK / CKMB / Troponin-T:93//,
   ALT / AST:[**8-13**], Alk Phos / T Bili:78/0.5, Lactic Acid:1.6 mmol/L,
   Albumin:3.2 g/dL, LDH:207 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Fluid analysis / Other labs: No labs from today.
   Microbiology: Urine cx + E. coli S to Bactrim
   C. diff negative
   Blood cultures NGTD
   Assessment and Plan
   71 yo F with ESRD on HD, recurrent UTIs, presents with altered mental
   status and is found to have hydroureter, now s/p perc nephrostomy tube
   c/b transient hypoxemia and HD-related HoTN.
   #. Pyelonephritis: with obstructed ureter of unclear etiology
   - Continue vanc/meropenem  consider d/c Vanco
   - Await final culture data and adjust as appropriate
   - Follow up with GU
   #. Hypotension: Concern for sepsis. Responsive to IVF. Now stable.
   - F/u cultures
   - IVF prn
   #. Hypoxemia: Unclear etiology. CXR yesterday c/w volume overload in
   setting of missing HD, therefore thought [**12-29**] volume overload, but now
   improved and on RA with clear CXR in setting of getting fluid yesterday
   [**12-29**] HoTN. Will follow.
   #. Altered mental status: likely [**12-29**] ongoing infection superimposed on
   dementia. Head CT normal.
    - Holding sedating medications
    - Follow
   #. RLQ Abdominal Pain: Persistent despite disimpaction. CT abd did not
   delineate clear etiology.
    - Serial abdominal exams
    - Follow lactates
    - Check for c. diff given diarrhea (albeit in setting of aggressive
   bowel regimen)
   #. ESRD: Followed by renal for HD.
   #. FEN: Will advance diet with improving mental status.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes